US05153214
A solution of 5410 g of diethyl malonate in 2000 ml of tetrahydrofuran is added to a mixture of 1351 g of 60% sodium hydride in mineral oil in 36 ml of tetrahydrofuran over a period of 4 h, keeping the temperature below 26°, and the mixture is stirred for 0.5 h. A solution of 3705 g of 6-methylsulfonyloxy-5-(2-propenyl)-hexanenitrile in 200 ml tetrahydrofuran is added rapidly and the mixture is heated under reflux for 24 h and allowed to cool overnight. The mixture is neutralized to pH 7 with glacial acetic acid (about 1 l) and evaporated to dryness. A solution of the residue in 30 l of ether is washed consecutively with water, saturated sodium bicarbonate solution, water and brine, and evaporated to dryness. The mineral oil is separated in a separatory funnel and the remaining product is washed three times with heptane, concentrated at 80°/0.01 mm Hg (=0.013 mbar), and distilled at 150° to remove diethyl malonate and obtain crude diethyl [5-cyano-2-(2-propenyl)-pentyl]-malonate. The above malonate ester (2169 g) is added to a solution of 622.9 g of lithium chloride in a mixture of 10845 ml dimethylformamide and 1085 ml of water. The mixture is heated at reflux for 27 h and is allowed to cool to room temperature overnight. The solution is poured into 22 l of ice/water, extracted with ether, and the extract is then washed with saturated sodium bicarbonate, water and brine, dried over sodium sulfate and evaporated to dryness. The residue is distilled to yield ethyl 4-(3-cyanopropyl)-6-heptenoate, b.p. 136-138/0.2 mm Hg (=0.27 mbar).

reactant | diethyl malonate | 5410 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 1351 g | [H-].[Na+]
reactant | 6-methylsulfonyloxy-5-(2-propenyl)-hexanenitrile | 3705 g | CS(=O)(=O)OCC(CCCC#N)CC=C | C10H17NO3S
reactant | lithium chloride | 622.9 g | [Cl-].[Li+]
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10845 ml | CN(C=O)C | C3H7NO
solvent | water | 1085 ml | O | H2O
solvent | acetic acid | about 1 l | C(C)(=O)O | C2H4O2
product | ethyl 4-(3-cyanopropyl)-6-heptenoate | C(#N)CCCC(CCC(=O)OCC)CC=C | C13H21NO2
